US04042705
29.3 g (0.1 mol) of 1-methyl-2-(3-methyl-4-methylthiophenyloxymethyl)-5-nitro-imidazole are dissolved in 200 ml of chloroform, and the solution is added dropwise while stirring at 25° C. to a solution of 17.25 g (0.1 mol) of 3-chloroperbenzoic acid in 70 ml of chloroform. The reaction mixture is stirred for 1 hour at 25° C., shaken with dilute sodium carbonate solution, the chloroform phase is separated, dried over sodium sulfate and concentrated by evaporation. The residue is recrystallized from ethanol with an addition of charcoal, to yield 21.0 g (68% of the theoretical yield) of 1-methyl-2-(3-methyl-4-methylsulfinylphenyl-oxymethyl)-5-nitro-imidazole in the form of yellow crystals, m.p. 121° C.

reactant | 1-methyl-2-(3-methyl-4-methylthiophenyloxymethyl)-5-nitro-imidazole | 0.1 mol, 29.3 g | CN1C(=NC=C1[N+](=O)[O-])COC1=CC(=C(C=C1)SC)C | C13H15N3O3S
reactant | 3-chloroperbenzoic acid | 0.1 mol, 17.25 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-methyl-2-(3-methyl-4-methylsulfinylphenyl-oxymethyl)-5-nitro-imidazole | CN1C(=NC=C1[N+](=O)[O-])COC1=CC(=C(C=C1)S(=O)C)C | C13H15N3O4S
